* C:\Users\Matt\Documents\git\ltspice_models\phase_shift_oscillator\phase_shift_oscillator.asc
V1 5V 0 10
Rfeedback Sig_out N001 3500
R2 N002 N001 100
R3 0 N003 100
R4 0 N004 100
C1 N003 N002 65n
C2 N004 N003 65n
C3 Sig_out N004 65n
XU2 0 N001 5V -5V Sig_out AD820
I1 N001 0 PULSE(0 1uA 0 0 0 1us 1m 1000)
V2 -5V 0 -10
.tran 10
* Fout = 1/(2*pi*R*C*sqrt(6))\nRfeedback >29*R
.lib ADI1.lib
.backanno
.end
